US07501420B2
4-Methoxyphenylboronic acid (24.54 g), 4-chloro-3-nitropyridine hydrochloride (26.24 g), Pd(Ph3P)4 (4 g) and K2CO3 (111 g) were combined in DME (500 mL). The reaction was heated to reflux for 10 hours. After the mixture cooled down to room temperature, it was poured into saturated aqueous NH4OAc (500 mL) solution. The aqueous phase was extracted with EtOAc (3×200 mL). The combined extract was concentrated to give a residue which was purified using silica gel chromatography (10% to 30% EtOAc/PE) to afford 10.6 g of Precursor 1, 3-Nitro-4-(4-methoxyphenyl)pyridine. MS m/z: (M+H)+ calcd for C12H11N2O3: 231.08; found 231.02. HPLC retention time: 1.07 minutes (column B).

reactant | 4-Methoxyphenylboronic acid | 24.54 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | 4-chloro-3-nitropyridine hydrochloride | 26.24 g | Cl.ClC1=C(C=NC=C1)[N+](=O)[O-]
reactant | K2CO3 | 111 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DME | 500 mL | COCCOC | C4H10O2
catalyst | Pd(Ph3P)4 | 4 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Nitro-4-(4-methoxyphenyl)pyridine | [N+](=O)([O-])C=1C=NC=CC1C1=CC=C(C=C1)OC | C12H10N2O3
